US07109339B2
6-Iodo-5-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (3.85 g, 12.3 mmol) was suspended in methanol (40 mL). Formaldehyde (14 mL of 37%) was added and heated at reflux for 2 h. The reaction was cooled to 0° C. in an ice bath and sodium borohydride (1.7 g, 46 mmol) was added slowly over 15 min and stirred for 2 h at 0–10° C. The reaction was diluted with water (200 mL) and extracted with CH2Cl2 (3×150 mL). The organics were collected, washed with brine (250 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure. The product was purified by silica gel column chromatography (3% MeOH/CH2Cl2) to give 6-iodo-2,5-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.6 g, 15%). 1H NMR (CDCl3 300 MHz) δ 7.59 (d, 1H, J=7.4 Hz), 7.33 (d, 1H, J=7.6 Hz), 6.73 (t, 1H, J=7.7 Hz), 3.98 (s, 3H), 3.62 (s, 2H), 2.83 (s, 4H), 2.55 (s, 3H) ppm.

reactant | 6-Iodo-5-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 12.3 mmol, 3.85 g | IC1=CC=CC=2C3=C(N(C12)C)CCNC3 | C12H13IN2
reactant | Formaldehyde | 14 mL | C=O | CH2O
reactant | sodium borohydride | 46 mmol, 1.7 g | [BH4-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
solvent | water | 200 mL | O | H2O
product | 6-iodo-2,5-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.6 g, 15% | IC1=CC=CC=2C3=C(N(C12)C)CCN(C3)C | C13H15IN2
